US09108948B2
2-butyl-1,3,6,2-dioxazaborocane
To a solution of 2,2′-azanediyldiethanol (26.12 g, 246 mmol) in DCM (250 ml) and ether (500 mL) was added n-butylboronic acid (25.4 g, 242 mmol) and molecular sieves (3A, 4-6 mesh, 65 g). It was stirred at ambient temperature for 2 hours. The mixture was filtered, and the filtrate was concentrated under reduced pressure. The resulting white solid was recrystallized with DCM/ether to provide white crystals as the title product. NMR (300 MHz, CDCl3): δ 0.47 (t, J=9 Hz, 2H), 0.88 (t, J=6 Hz, 3H), 1.20-1.37 (m, 4H), 2.82 (br, 2H), 3.24 (br, 2H), 3.95 (br, 4H), 4.27 (br, 1H). MS (DCl—NH3) m/z 172 (M+H)+.

reactant | 2,2′-azanediyldiethanol | 246 mmol, 26.12 g | N(CCO)CCO | C4H11NO2
reactant | n-butylboronic acid | 242 mmol, 25.4 g | C(CCC)B(O)O | C4H11BO2
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 500 mL | CCOCC | C4H10O
product | 2-butyl-1,3,6,2-dioxazaborocane | C(CCC)B1OCCNCCO1 | C8H18BNO2
